US04073892
To a stirred solution of 1.3 g of N-(2-methoxypropyl)glycine ethyl ester and 1.7 ml of triethylamine in 50 ml of chloroform, which was cooled in an ice-salt bath, was added in portions N2 -(6, 7-dimethoxy-2-naphthylsulfonyl)-L-arginyl chloride which was obtained in Example 3. The reaction mixture was stirred overnight at room temperature. At the end of this period, 50 ml of chloroform was added and the chloroform solution was washed twice with 50 ml of saturated sodium chloride solution, dried over anhydrous sodium sulfate and evaporated in vacuo. The oily residue was washed with ether to give 2.4 g of powdery N2 -(6, 7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxypropyl)glycine ethyl ester.

reactant | N-(2-methoxypropyl)glycine ethyl ester | 1.3 g | C(C)OC(CNCC(C)OC)=O | C8H17NO3
reactant | triethylamine | 1.7 ml | C(C)N(CC)CC | C6H15N
reactant | N2 (6, 7-dimethoxy-2-naphthylsulfonyl)-L-arginyl chloride | N#N.COC=1C=C2C=CC(=CC2=CC1OC)S(=O)(=O)N[C@@H](CCCNC(N)=N)C(=O)Cl
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N2 (6, 7-dimethoxy-2-naphthylsulfonyl)-L-arginyl-N-(2-methoxypropyl)glycine ethyl ester | 2.4 g | N#N.C(C)OC(CN(CC(C)OC)C([C@@H](NS(=O)(=O)C1=CC2=CC(=C(C=C2C=C1)OC)OC)CCCNC(N)=N)=O)=O | InChI=1S/C26H39N5O8S.N2/c1-6-39-24(32)16-31(15-17(2)36-3)25(33)21(8-7-11-29-26(27)28)30-40(34,35)20-10-9-18-13-22(37-4)23(38-5)14-19(18)12-20;1-2/h9-10,12-14,17,21,30H,6-8,11,15-16H2,1-5H3,(H4,27,28,29);/t17?,21-;/m0./s1
